US07238808B2
5-[5-(4-Chloro-phenyl)-7-hydroxymethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared 2-[5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propan-2-ol (example C.14) (28 mg, 0.1 mmol) and 5-bromo-thiophene-2-sulfonic acid amide (24 mg, 0.10 mmol) according to general procedure II. Obtained as a yellow solid (9 mg, 20%). MS (ISP) 445.0 [(M+H)+]; mp 194–196° C.

reactant | 2-[5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propan-2-ol | 0.1 mmol, 28 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(C)(C)O)N=CC2C#C | C17H14ClN3O
reactant | 5-bromo-thiophene-2-sulfonic acid amide | 0.10 mmol, 24 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[5-(4-Chloro-phenyl)-7-hydroxymethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)CO)N=CC2C#CC2=CC=C(S2)S(=O)(=O)N | C19H13ClN4O3S2
